US07713982B2
a) 1,3-dibutyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
A solution of 1,3-di-N-butyl xanthine (10 g, 38 mmol) in anhydrous DMF (80 ml) was treated with K2CO3 (5.2 g, 38 mmol) followed by allyl bromide (3.6 ml, 42 mmol). The mixture was heated at 55° C. under nitrogen for 18 hours. After cooling to rt the mixture was partitioned between water and EtOAc. A few mls of 2M HCl(aq) was added to aid separation. The organic layer was separated and the aqueous extracted once more with EtOAc. The combined extracts were washed with brine, dried (MgSO4) and concentrated to afford the title compound as an off-white solid (12.23 g, 106%). m/z 305.3[MH+].

reactant | 1,3-di-N-butyl xanthine | 38 mmol, 10 g | C(CCC)N1C(=O)N(C=2N=CNC2C1=O)CCCC | C13H20N4O2
reactant | K2CO3 | 38 mmol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 42 mmol, 3.6 ml | C(C=C)Br | C3H5Br
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 1,3-dibutyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 12.23 g, 106% | C(CCC)N1C(N(C=2N=CN(C2C1=O)CC=C)CCCC)=O | C16H24N4O2
